US04979982
3-(2-chloro-5-nitrophenyl)-2-propenoic acid
A mixture of 2 chloro-5-nitrobenzaldehyde (100 g., 0.54 mole), malonic acid (122 g., 1.2 mole) in pyridine (300 ml) and piperidine (5 ml) was heated at 100° C. for one hour, during which time considerable gassing occurred. After refluxing the reaction mixture for a further few minutes, it was then cooled. The resulting precipitate was collected, washed with water and dried to give an 80% yield, m.p. 226°-228° C.

reactant | chloro-5-nitrobenzaldehyde | 0.54 mole, 100 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | malonic acid | 1.2 mole, 122 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 5 ml | N1CCCCC1 | C5H11N
product | 3-(2-chloro-5-nitrophenyl)-2-propenoic acid | 80% yield | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=CC(=O)O | C9H6ClNO4
